US06927221B2
3-(2-Hydroxyethyl)-8-mesityl-2,6-dimethylimidazo[1,5-a]pyrimidin-4-ol
A solution of 5-mesityl-2-methyl-4-nitro-1H-imidazole (2.1 g, 8.56 mmol), α-acetyl-γ-butyrolactone (1.21 g, 9.42 mmol), and iron powder (2.39 g, 42.8 mmol) in ethanol (40 mL) and acetic acid (10 mL) was stirred at 80° C. for one day. The mixture was filtered through Celite and evaporated. The resulting crystals were washed with ethyl acetate, to give the title compound (0.95 g) as white crystals.

reactant | 5-mesityl-2-methyl-4-nitro-1H-imidazole | 8.56 mmol, 2.1 g | C1(=C(C(=CC(=C1)C)C)C1=C(N=C(N1)C)[N+](=O)[O-])C | C13H15N3O2
reactant | α-acetyl-γ-butyrolactone | 9.42 mmol, 1.21 g | C(C)(=O)C1C(=O)OCC1 | C6H8O3
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 42.8 mmol, 2.39 g | [Fe] | Fe
product | 3-(2-Hydroxyethyl)-8-mesityl-2,6-dimethylimidazo[1,5-a]pyrimidin-4-ol | 0.95 g | OCCC=1C(=NC=2N(C1O)C(=NC2C2=C(C=C(C=C2C)C)C)C)C | C19H23N3O2
